US04351833
dl-9-Acetamido-1-acetoxy-6-methyl-3-(3-methyl-2-octylsulfinyl)-5,6,6a,7,8,9,10,10a-octahydrobenzo[c]quinoline [(I), R=R1 =CH3CO, R4 =CH3, R5 =R6 =H, ZW=S(O)C9H19 ]
Equimolar amounts of m-chloroperbenzoic acid and dl-9-acetamido-1-acetoxy-6-methyl-3-(3-methyl-2-octylthio)5,6,6a,7,8,9,10,10a-octahydrobenzo[c]quinoline are added to a mixture of chloroform and acetic acid (2:1 v/v) and the mixture stirred at room temperature for one hour. The reaction mixture is washed with water, the organic phase dried over magnesium sulfate and evaporated to dryness at reduced pressure to give the title compound.

reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 9-acetamido-1-acetoxy-6-methyl-3-(3-methyl-2-octylthio)5,6,6a,7,8,9,10,10a-octahydrobenzo[c]quinoline | C(C)(=O)NC1CC2C(C(NC3=CC(=CC(=C23)OC(C)=O)SC(C)C(CCCCC)C)C)CC1 | C27H42N2O3S
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 9-Acetamido-1-acetoxy-6-methyl-3-(3-methyl-2-octylsulfinyl)-5,6,6a,7,8,9,10,10a-octahydrobenzo[c]quinoline | C(C)(=O)NC1CC2C(C(NC3=CC(=CC(=C23)OC(C)=O)S(=O)C(C)C(CCCCC)C)C)CC1 | C27H42N2O4S
